US04011324
N-(2-Phenoxyethyl) 3-(Carboxymethyl)-7,8-Dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide
A mixture of sodium hydride (0.22 g., 4.6 mM of 50%); N-(2-phenoxyethyl) 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide (1.0 g., 2.2 mM); bromoacetic acid (0.319 g., 2.3 mM) and N,N-dimethylformamide (50 ml.) is refluxed for 6 hours and then cooled to room temperature. The precipitate which forms is separated by filtration and dried under vacuum to give 0.476 g. (43%) of product; m.p. 310°-315° C.

reactant | sodium hydride | 4.6 mM, 0.22 g | [H-].[Na+]
reactant | N-(2-phenoxyethyl) 7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide | 2.2 mM, 1.0 g | O(C1=CC=CC=C1)CCNC(=O)C=1NC(C=2C(=NC3=CC(=C(C=C3C2)OC)OC)N1)=O | C22H20N4O5
reactant | bromoacetic acid | 2.3 mM, 0.319 g | BrCC(=O)O | C2H3BrO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(2-Phenoxyethyl) 3-(Carboxymethyl)-7,8-Dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide | O(C1=CC=CC=C1)CCNC(=O)C=1N(C(C=2C(=NC3=CC(=C(C=C3C2)OC)OC)N1)=O)CC(=O)O | C24H22N4O7
